US04511731
Preparation of 4-(2-Hydroxyethoxy)phenol
To a mixture of 2.50 g 2-(4-(1-methylethenyl)phenoxy)ethanol, 10 ml methanol, and 1.1 equivalents 50% aqueous H2O2 were added 0.1 equivalent 98% H2SO4. The reaction mixture warmed itself to reflux which subsided in a few minutes. After addition of 0.2 equivalent Na2SO3, methanol was removed under reduced pressure. The residue was taken up in ether, dried over Na2SO4 and NaHCO3, and filtered. Removal of solvent left 4-(2-hydroxyethoxy)phenol in quantitative yield.

reactant | 2-(4-(1-methylethenyl)phenoxy)ethanol | 2.50 g | CC(=C)C1=CC=C(OCCO)C=C1 | C11H14O2
reactant | H2O2 | 1.1 equivalents | OO | H2O2
reactant | H2SO4 | 0.1 equivalent | OS(=O)(=O)O | H2O4S
reactant | Na2SO3 | 0.2 equivalent | [O-]S(=O)[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(2-Hydroxyethoxy)phenol | quantitative yield | OCCOC1=CC=C(C=C1)O | C8H10O3
